US07842694B2
3-[((1S)-2-{[(1,1-Dimethylethyl)(dimethyl)silyl]oxy}-1-methylethyl)oxy]-5-hydroxy-N-(5-methylpyrazin-2-yl)benzamide
Lithium hydroxide monohydrate (0.38 g, 9.12 mol) in water (20 mL) was added to a solution of 3-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}-5-[((1S)-2-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}-1-methylethyl)oxy]-N-(5-methylpyrazin-2-yl)benzamide (1.94 g, 3.65 mol) in THF (40 mL) and stirred at RT for 20 hours. The THF was removed in vacuo and the aqueous layer was adjusted to pH7. Ethyl acetate (50 mL) and water (50 mL) were added then the aqueous layer re-extracted into ethyl acetate (50 mL) and the combined organics washed with water (50 mL), brine (50 mL), dried (MgSO4), filtered and reduced in vacuo. The crude material was chromatographed on silica, eluting with 20-50% ethyl acetate in isohexane, to give the desired material as a white solid (0.8 g). 1H NMR δ (CDCl3): 0.04 (s, 3H), 0.08 (s, 3H), 0.87 (s, 9H), 1.30 (d, 3H), 2.56 (s, 3H), 3.65-3.81 (m, 2H), 4.46-4.51 (m, 1H), 5.63 (s, 1H), 6.63 (t, 1H), 6.98 (t, 1H), 7.04 (t, 1H), 8.15 (s, 1H), 8.41 (s, 1H), 9.57 (s, 1H); m/z 418 (M+H)+

reactant | Lithium hydroxide monohydrate | 9.12 mol, 0.38 g | O.[OH-].[Li+]
reactant | 3-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}-5-[((1S)-2-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}-1-methylethyl)oxy]-N-(5-methylpyrazin-2-yl)benzamide | 3.65 mol, 1.94 g | CC(C)(C)[Si](OC=1C=C(C(=O)NC2=NC=C(N=C2)C)C=C(C1)O[C@H](CO[Si](C)(C)C(C)(C)C)C)(C)C | C27H45N3O4Si2
solvent | water | 20 mL | O | H2O
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | 3-[((1S)-2-{[(1,1-Dimethylethyl)(dimethyl)silyl]oxy}-1-methylethyl)oxy]-5-hydroxy-N-(5-methylpyrazin-2-yl)benzamide | 0.8 g | CC(C)(C)[Si](OC[C@H](C)OC=1C=C(C(=O)NC2=NC=C(N=C2)C)C=C(C1)O)(C)C | C21H31N3O4Si
